US05811448
2.16 ml (0.027 mol) of ethyl iodide are added to a suspension of 9 g (0.022 mol) of 4-((3-ethyl-4-methyl-2-oxo-3-pyrroline-1-carboxamido)-methyl)-6-sulfamoyl-7-hydroxychroman and 6.1 g (0.044 mol) of potassium carbonate in 60 ml of acetone. After stirring under reflux for three hours, the mixture is introduced into ice/water and cautiously acidified with concentrated hydrochloric acid. The precipitate is filtered off with suction, washed several times with cold water, dried and recrystallized from ethanol/DMF. 4-((3-Ethyl-4-methyl-2-oxo-3-pyrroline-1-carboxamido)-methyl)-6-sulfamoyl-7-ethoxychroman of melting point 192° C. is obtained.

reactant | ethyl iodide | 0.027 mol, 2.16 ml | C(C)I | C2H5I
reactant | 4-((3-ethyl-4-methyl-2-oxo-3-pyrroline-1-carboxamido)-methyl)-6-sulfamoyl-7-hydroxychroman | 0.022 mol, 9 g | C(C)C=1C(N(CC1C)C(=O)NCC1CCOC2=CC(=C(C=C12)S(N)(=O)=O)O)=O | C18H23N3O6S
reactant | potassium carbonate | 0.044 mol, 6.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | acetone | 60 ml | CC(=O)C | C3H6O
product | 4-((3-Ethyl-4-methyl-2-oxo-3-pyrroline-1-carboxamido)-methyl)-6-sulfamoyl-7-ethoxychroman | C(C)C=1C(N(CC1C)C(=O)NCC1CCOC2=CC(=C(C=C12)S(N)(=O)=O)OCC)=O | C20H27N3O6S
